US09212190B2
For the preparation of the starting material Compound I-90, please refer to Example 107. A 25-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was charged with a solution of 2-[(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)(methyl)amino]-1-(pyrrolidin-1-yl)ethan-1-one (100 mg, 0.22 mmol, 1.00 equiv) in 5 mL of distilled DMF. MsCl (38 mg, 0.33 mmol, 1.50 equiv) and triethylamine (66.7 mg, 0.66 mmol, 3.00 equiv) were added at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was then quenched with water, extracted with DCM. The organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by column chromatography on silica gel with DCM/MeOH (20:1 to 10:1) to give 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate (107 mg) as a white solid. MS (ES): m/z 537 [M+H]+.

reactant | 2-[(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)(methyl)amino]-1-(pyrrolidin-1-yl)ethan-1-one | 0.22 mmol, 100 mg, 1.00 equiv | OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(CC(=O)N1CCCC1)C | C24H34N4O3S
reactant | MsCl | 0.33 mmol, 38 mg, 1.50 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.66 mmol, 66.7 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate | 107 mg | CS(=O)(=O)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(CC(N1CCCC1)=O)C | C25H36N4O5S2
